### PR TITLE
feat: add `Erdos Problem 42`

### LINKED ISSUE #220: Erdős Problem 42
### What is the conjecture
    
https://www.erdosproblems.com/42

  Let $M\geq 1$ and $N$ be sufficiently large in terms of $M$. Is it true that for every maximal Sidon set $A\subset \{1,\ldots,N\}$ there is another Sidon set $B\subset \{1,\ldots,N\}$ of size $M$ such that $(A-A)\cap(B-B)=\{0\}$?

Status: open

### Prerequisites needed
None, Sidon set already in `ForMathlb`.

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by saurabhraghuvanshii**
closes #220

### CODE REVIEW

File: FormalConjectures/ErdosProblems/42.lean [hunk 1]
```diff
@@ -0,0 +1,126 @@
...
+disjoint difference sets (apart from 0).
+-/
+
+open Function Set
+
+/-- A Sidon set `A` is maximal in `{1, ..., N}` if it cannot be extended by adding any
+element from `{1, ..., N}` while preserving the Sidon property. -/
+def IsMaximalSidonSet (A : Set ℕ) (N : ℕ) : Prop :=
+  IsSidon A ∧ A ⊆ Set.Icc 1 N ∧
+  ∀ (x : ℕ), x ∈ Set.Icc 1 N → x ∉ A → ¬IsSidon (A ∪ {x})
```
Comment (b-mehta) [inline FormalConjectures/ErdosProblems/42.lean]: Let's perhaps use `Maximal` for this

Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/42.lean]: is there is  Maximal defined anywhere

File: FormalConjectures/ErdosProblems/42.lean [hunk 2]
```diff
@@ -0,0 +1,126 @@
...
+
+/-- The difference set of a set `A` is `{a - b | a, b ∈ A}`. -/
+def differenceSet (A : Set ℕ) : Set ℕ :=
+  {a - b | (a, b) ∈ A ×ˢ A}
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/42.lean]: FYI, this is already defined by `A - A` if you `open scoped Pointwise`

File: FormalConjectures/ErdosProblems/42.lean [hunk 3]
```diff
@@ -0,0 +1,123 @@
...
+
+/--
+**Erdős Problem 42**: For every maximal Sidon set in `{1, ..., N}`, there exists another
+Sidon set of size M with disjoint difference sets (apart from 0).
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42 : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
+      B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+      (A - A ∩ B - B) ⊆ {0}) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
      ((A - A) ∩ (B - B)) ⊆ {0}) ↔ answer(sorry) := by
```
These need to be associated like this (please fix this in the other ones as well!)

File: FormalConjectures/ErdosProblems/42.lean [hunk 4]
```diff
@@ -0,0 +1,123 @@
...
+-/
+@[category undergraduate, AMS 5 11]
+theorem example_maximal_sidon : IsMaximalSidonSet {1, 2, 4} 4 := by
+  sorry
+
+/--
+The difference set of `{1, 2, 4}` is `{0, 1, 2, 3}`.
+-/
+@[category undergraduate, AMS 5 11]
+theorem example_difference_set : {1, 2, 4} - {1, 2, 4} = {0, 1, 2, 3} := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
theorem example_difference_set : ({1, 2, 4} : Set ℕ) - {1, 2, 4} = {0, 1, 2, 3} := by
```
Is this compiling for you? I need to add this type ascription to make it work.

File: FormalConjectures/ErdosProblems/42.lean (hunk 1 above)
Comment (callesonne) [reply FormalConjectures/ErdosProblems/42.lean]: Yes [Maximal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Defs/Unbundled.html#Maximal)

**Review by callesonne — COMMENTED** [review]
Some comments, thanks for the contribution! :)

File: FormalConjectures/ErdosProblems/42.lean (hunk 4 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/42.lean]: no ! but now compiling after correcton, Thanks :)

File: FormalConjectures/ErdosProblems/42.lean [hunk 5]
```diff
@@ -0,0 +1,122 @@
...
+theorem example_difference_set : ({1, 2, 4} : Set ℕ) - {1, 2, 4} = {0, 1, 2, 3} := by
+  sorry
+
+/--
+For any maximal Sidon set, the difference set contains 0.
+-/
+@[category undergraduate, AMS 5 11]
+theorem maximal_sidon_contains_zero (A : Set ℕ) (N : ℕ) (hA : IsMaximalSidonSet A N) :
+    0 ∈ A - A := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/42.lean:79]: I think this is not true as stated:
```
example : IsMaximalSidonSet ({} : Set ℕ) 0 := by
  unfold IsMaximalSidonSet
  simp
  constructor
  · unfold IsSidon
    simp
  · unfold Maximal
    simp
    unfold IsSidon
    simp

example : 0 ∉ ({} : Set ℕ) - {} := by
  simp
 
```

Not entirely sure how to fix that best: perhaps one should require `N` to be positive in the definition of `IsMaximalSidonSet`?

File: FormalConjectures/ErdosProblems/42.lean [hunk 6]
```diff
@@ -0,0 +1,122 @@
...
+-/
+
+open Function Set
+open scoped Pointwise
+
+/-- A Sidon set `A` is maximal in `{1, ..., N}` if it cannot be extended by adding any
+element from `{1, ..., N}` while preserving the Sidon property. -/
+def IsMaximalSidonSet (A : Set ℕ) (N : ℕ) : Prop :=
+  IsSidon A ∧ A ⊆ Set.Icc 1 N ∧
+  Maximal (fun B => IsSidon B ∧ B ⊆ Set.Icc 1 N) A
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/42.lean]: This should be moved to `FormalConjectures/ForMathlib/Combinatorics/Basic.lean`, since it likely is also used in other Erdős Problems. 
(Can also be done in a follow up, no need to do that here...)

File: FormalConjectures/ErdosProblems/42.lean [hunk 7]
```diff
@@ -0,0 +1,122 @@
...
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
+      B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+      ((A - A) ∩ (B - B)) ⊆ {0}) ↔ answer(sorry) := by
+  sorry
+
+/--
+A weaker version where we only require that the intersection is finite.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42.weaker : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/42.lean]: Is this not trivially true? `A` and `B` are finite, hence are the difference sets and their intersection?

File: FormalConjectures/ErdosProblems/42.lean [hunk 8]
```diff
@@ -0,0 +1,122 @@
...
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
+      B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+      ((A - A) ∩ (B - B)) ⊆ {0}) ↔ answer(sorry) := by
+  sorry
+
+/--
+A variant asking for explicit bounds on how large N needs to be in terms of M.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42.constructive : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/42.lean]: isn't this identical to `erdos_42`?

File: FormalConjectures/ErdosProblems/42.lean [hunk 9]
```diff
@@ -0,0 +1,122 @@
...
+disjoint difference sets (apart from 0).
+-/
+
+open Function Set
+open scoped Pointwise
+
+/-- A Sidon set `A` is maximal in `{1, ..., N}` if it cannot be extended by adding any
+element from `{1, ..., N}` while preserving the Sidon property. -/
+def IsMaximalSidonSet (A : Set ℕ) (N : ℕ) : Prop :=
+  IsSidon A ∧ A ⊆ Set.Icc 1 N ∧
```
Comment (b-mehta) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
```

File: FormalConjectures/ErdosProblems/42.lean (hunk 5 above)
Comment (b-mehta) [reply FormalConjectures/ErdosProblems/42.lean:79]: Or just insist N is positive in this statement?

Comment (b-mehta) [reply FormalConjectures/ErdosProblems/42.lean:79]: It's a slightly weird statement to have too, the claim that 0 is in A - A is equivalent to saying A is nonempty

File: FormalConjectures/ErdosProblems/42.lean [hunk 10]
```diff
@@ -0,0 +1,122 @@
...
+
+/--
+The case where M = 1: can we find a single element that forms a Sidon set with
+disjoint difference set?
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42.single_element : (∃ (f : ℕ → ℕ), ∀ (N : ℕ) (_ : f 1 ≤ N),
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (x : ℕ),
+      x ∈ Set.Icc 1 N ∧ x ∉ A ∧ IsSidon {x} ∧
+      ((A - A) ∩ ({x} - {x})) ⊆ {0}) ↔ answer(sorry) := by
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/42.lean]: The condition ` ((A - A) ∩ ({x} - {x})) ⊆ {0}` here holds trivially since `{x} - {x} = {0}`. So it's a bit unclear to me what this result is really saying -- I think it's saying that any Sidon set `A` inside `{1, ..., N}` cannot be all of `{1, ..., N}` for large enough `N`, which I think is true and known?

File: FormalConjectures/ErdosProblems/42.lean (hunk 5 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/42.lean:79]: what about this 
```
theorem maximal_sidon_contains_zero (A : Set ℕ) (N : ℕ) (hN : 1 ≤ N) (hA : IsMaximalSidonSet A N) : 0 ∈ A - A := by
sorry
```
the hypothesis 1 ≤ N; without it the empty set is (trivially) a maximal Sidon set, falsifying the old statement. 
 ` 0 ∈ A - A is equivalent to A.Nonempty would also be sensible.`

File: FormalConjectures/ErdosProblems/42.lean (hunk 10 above)
Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/42.lean]: For a singleton `{x}` we have `{x} - {x} = {0}`, so the condition `((A - A) ∩ ({x} - {x})) ⊆ {0}` is always satisfied.  Consequently, the `M = 1` instance of Erdős Problem 42 is vacuous: a maximal Sidon set `A` in `{1, …, N}` is never the whole interval (for `N ≥ 1` it would contain consecutive numbers), so there is always some `x ∈ {1, …, N} \ A`.  Therefore we omit aseparate `single_element` theorem.

File: FormalConjectures/ErdosProblems/42.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+open Function Set
+open scoped Pointwise
+
+/--
+**Erdős Problem 42**: For every maximal Sidon set in `{1, ..., N}`, there exists another
+Sidon set of size M with disjoint difference sets (apart from 0).
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42 : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/42.lean]: I don't think `IsMaximalSidonSet` exists. You'll need to define it.

File: FormalConjectures/ErdosProblems/42.lean [hunk 12]
```diff
@@ -0,0 +1,107 @@
...
+theorem erdos_42.constructive : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
+      B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+      ((A - A) ∩ (B - B)) ⊆ {0}) ↔ answer(sorry) := by
+  sorry
+
+/--
+A weaker version where we only require that the intersection is bounded.
+Note: This is trivially true since A and B are finite, making their
+difference sets and intersection finite.
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/42.lean]: If it's trivially true I would remove it

File: FormalConjectures/ErdosProblems/42.lean (hunk 11 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/42.lean]: It looks like it used to exist?

Comment (saurabhraghuvanshii) [reply FormalConjectures/ErdosProblems/42.lean]: @smmercuri  can  I add it to Basic.lean?

File: FormalConjectures/ErdosProblems/42.lean [hunk 13]
```diff
@@ -0,0 +1,96 @@
...
+open Function Set
+open scoped Pointwise
+
+/--
+**Erdős Problem 42**: For every maximal Sidon set in `{1, ..., N}`, there exists another
+Sidon set of size M with disjoint difference sets (apart from 0).
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42 : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]: Given that there is a constructive version below, I would rewrite this as: `∀ (M : ℕ), ∀ᶠ N in atTop, ...`.

File: FormalConjectures/ErdosProblems/42.lean [hunk 14]
```diff
@@ -0,0 +1,96 @@
...
+      B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+      ((A - A) ∩ (B - B)) ⊆ {0}) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
      ((A - A) ∩ (B - B)) = {0}) ↔ answer(sorry) := by
```
nitpick: so its more in line with the statement on the website (even though its equivalent)

File: FormalConjectures/ErdosProblems/42.lean [hunk 15]
```diff
@@ -0,0 +1,96 @@
...
+    (h : ((A - A) ∩ (B - B)) ⊆ {0}) : IsSidon (A ∪ B) := by
+  sorry
+
+/--
+A maximal Sidon set cannot be extended by any element from its range.
+-/
+@[category undergraduate, AMS 5 11]
+theorem maximal_sidon_no_extension (A : Set ℕ) (N : ℕ) (hA : IsMaximalSidonSet A N) :
+    ∀ (x : ℕ), x ∈ Set.Icc 1 N → x ∉ A → ¬IsSidon (A ∪ {x}) := by
+  sorry
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]: I wouldn't include this, as it is exactly how you defined `IsMaximalSidonSet`
```suggestion
```

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 16]
```diff
@@ -87,6 +87,34 @@ theorem IsSidon.insert {A : Set α} {m : α} [IsRightCancelAdd α] [IsLeftCancel
...
+
+/-- If `A` is a maximal Sidon set in `{1, …, N}`, then `A` is Sidon. -/
+theorem isSidon {A : Set ℕ} {N : ℕ} (hA : IsMaximalSidonSet A N) : IsSidon A := hA.2.1
+
+/-- Maximality condition unpacked. -/
+theorem maximal {A : Set ℕ} {N : ℕ} (hA : IsMaximalSidonSet A N) {x : ℕ}
+    (hx : x ∈ Set.Icc 1 N) (hxA : x ∉ A) : ¬ IsSidon (A ∪ {x}) := hA.2.2 hx hxA
+
+end IsMaximalSidonSet
+
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean:122]: I would put this in the `Set` namespace, so you can write `S.IsMaximalSidonSet`.
```suggestion

/-!
Maximal Sidon sets in an interval.

We follow the convention that `IsMaximalSidonSet A N` means `A ⊆ {1, …, N}` is Sidon and
is inclusion-maximal among subsets of `Set.Icc 1 N` with the Sidon property.
-/

/-- `IsMaximalSidonSet A N` means `A ⊆ {1, …, N}` is Sidon and cannot be extended within
`{1, …, N}` while remaining Sidon. -/
def IsMaximalSidonSet (A : Set ℕ) (N : ℕ) : Prop :=
  A ⊆ Set.Icc 1 N ∧ IsSidon A ∧
    ∀ ⦃x : ℕ⦄, x ∈ Set.Icc 1 N → x ∉ A → ¬ IsSidon (A ∪ {x})

namespace IsMaximalSidonSet

/-- If `A` is a maximal Sidon set in `{1, …, N}`, then `A ⊆ {1, …, N}`. -/
theorem subset {A : Set ℕ} {N : ℕ} (hA : IsMaximalSidonSet A N) :
    A ⊆ Set.Icc 1 N := hA.1

/-- If `A` is a maximal Sidon set in `{1, …, N}`, then `A` is Sidon. -/
theorem isSidon {A : Set ℕ} {N : ℕ} (hA : IsMaximalSidonSet A N) : IsSidon A := hA.2.1

/-- Maximality condition unpacked. -/
theorem maximal {A : Set ℕ} {N : ℕ} (hA : IsMaximalSidonSet A N) {x : ℕ}
    (hx : x ∈ Set.Icc 1 N) (hxA : x ∉ A) : ¬ IsSidon (A ∪ {x}) := hA.2.2 hx hxA

end IsMaximalSidonSet

end Set

```

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 17]
```diff
@@ -87,6 +87,34 @@ theorem IsSidon.insert {A : Set α} {m : α} [IsRightCancelAdd α] [IsLeftCancel
...
+We follow the convention that `IsMaximalSidonSet A N` means `A ⊆ {1, …, N}` is Sidon and
+is inclusion-maximal among subsets of `Set.Icc 1 N` with the Sidon property.
+-/
+
+/-- `IsMaximalSidonSet A N` means `A ⊆ {1, …, N}` is Sidon and cannot be extended within
+`{1, …, N}` while remaining Sidon. -/
+def IsMaximalSidonSet (A : Set ℕ) (N : ℕ) : Prop :=
+  A ⊆ Set.Icc 1 N ∧ IsSidon A ∧
+    ∀ ⦃x : ℕ⦄, x ∈ Set.Icc 1 N → x ∉ A → ¬ IsSidon (A ∪ {x})
```
Comment (callesonne) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean]:
```suggestion
def IsMaximalSidonSetIn (A : Set ℕ) (N : ℕ) : Prop :=
  A ⊆ Set.Icc 1 N ∧ IsSidon A ∧
    ∀ ⦃x : ℕ⦄, x ∈ Set.Icc 1 N → x ∉ A → ¬ IsSidon (A ∪ {x})
```
I would call this `IsMaximalSidonSetIn`, so with my change to the namespace you would write `A.IsMaximalSidonSetIn N`. To highlight that you are in the interval `Set.Icc 1 N`

File: FormalConjectures/ErdosProblems/42.lean [hunk 18]
```diff
@@ -0,0 +1,96 @@
...
+# Erdős Problem 42: Maximal Sidon Sets and Disjoint Difference Sets
+
+*Reference:* [erdosproblems.com/42](https://www.erdosproblems.com/42)
+
+Let M ≥ 1 and N be sufficiently large in terms of M. Is it true that for every maximal Sidon set
+`A ⊆ {1,…,N}` there is another Sidon set `B ⊆ {1,…,N}` of size M such that
+`(A - A) ∩ (B - B) = {0}`?
+
+This problem asks whether maximal Sidon sets can coexist with other Sidon sets that have
+disjoint difference sets (apart from 0).
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
```
This text should go inside the relevant theorem docstrings.

File: FormalConjectures/ErdosProblems/42.lean [hunk 19]
```diff
@@ -0,0 +1,91 @@
...
+open Function Set
+open scoped Pointwise
+
+/--
+**Erdős Problem 42**: For every maximal Sidon set in `{1, ..., N}`, there exists another
+Sidon set of size M with disjoint difference sets (apart from 0).
+
+Let M ≥ 1 and N be sufficiently large in terms of M. Is it true that for every maximal Sidon set
+`A ⊆ {1,…,N}` there is another Sidon set `B ⊆ {1,…,N}` of size M such that
+`(A - A) ∩ (B - B) = {0}`?
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
**Erdős Problem 42**: Let M ≥ 1 and N be sufficiently large in terms of M. Is it true that for every
maximal Sidon set `A ⊆ {1,…,N}` there is another Sidon set `B ⊆ {1,…,N}` of size M such that
`(A - A) ∩ (B - B) = {0}`?
```
So the statement is only explained once.

File: FormalConjectures/ErdosProblems/42.lean [hunk 20]
```diff
@@ -0,0 +1,91 @@
...
+  sorry
+
+
+/-! ## Related results and examples -/
+
+/--
+The set `{1, 2, 4}` is a maximal Sidon set in `{1, ..., 4}`.
+-/
+@[category undergraduate, AMS 5 11]
+theorem example_maximal_sidon : IsMaximalSidonSet {1, 2, 4} 4 := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
theorem example_maximal_sidon : IsMaximalSidonSetIn {1, 2, 4} 4 := by
```
I think you need to change these now? And similarly throughout the file. Or does it compile already?

File: FormalConjectures/ErdosProblems/42.lean [hunk 21]
```diff
@@ -0,0 +1,91 @@
...
+Sidon set of size M with disjoint difference sets (apart from 0).
+
+Let M ≥ 1 and N be sufficiently large in terms of M. Is it true that for every maximal Sidon set
+`A ⊆ {1,…,N}` there is another Sidon set `B ⊆ {1,…,N}` of size M such that
+`(A - A) ∩ (B - B) = {0}`?
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42 : ∀ (M : ℕ), ∀ᶠ N in atTop, ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N),
+    ∃ᵉ (B : Set ℕ), B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+    ((A - A) ∩ (B - B)) = {0} ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
theorem erdos_42 : (∀ (M : ℕ), ∀ᶠ N in atTop, ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N),
    ∃ᵉ (B : Set ℕ), B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
    ((A - A) ∩ (B - B)) = {0}) ↔ answer(sorry) := by
```
This needs parenthesis.

File: FormalConjectures/ErdosProblems/42.lean [hunk 22]
```diff
@@ -0,0 +1,91 @@
...
+/--
+A variant asking for explicit bounds on how large N needs to be in terms of M.
+
+This version provides a constructive function f such that for all M ≥ 1 and N ≥ f(M),
+every maximal Sidon set A ⊆ {1,…,N} has another Sidon set B ⊆ {1,…,N} of size M with
+disjoint difference sets (apart from 0).
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42.constructive : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
+    ∀ (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
theorem erdos_42.constructive : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N)
    (A : Set ℕ) (_ : IsMaximalSidonSet A N), ∃ᵉ (B : Set ℕ),
```
The `∀` is not needed twice here.

File: FormalConjectures/ErdosProblems/42.lean [hunk 23]
```diff
@@ -0,0 +1,91 @@
...
+@[category undergraduate, AMS 5 11]
+theorem example_difference_set : ({1, 2, 4} : Set ℕ) - {1, 2, 4} = {0, 1, 2, 3} := by
+  sorry
+
+/--
+For any maximal Sidon set, the difference set contains 0.
+-/
+@[category undergraduate, AMS 5 11]
+theorem maximal_sidon_contains_zero (A : Set ℕ) (N : ℕ) (hN : 1 ≤ N)
+    (hA : IsMaximalSidonSet A N) : 0 ∈ A - A := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
    (hA : A.IsMaximalSidonSet N) : 0 ∈ A - A := by
```
and you should be able to write this now

**Review by callesonne — COMMENTED** [review]
Thanks again! Some more comments, and possibly final ones before being ready to merge.

**Comment by saurabhraghuvanshii** [comment]
Not able to build facing first time 

Screenshot From 2025-09-19 02-14-56

File: FormalConjectures/ForMathlib/Combinatorics/Basic.lean [hunk 24]
```diff
@@ -85,6 +85,35 @@ theorem IsSidon.insert {A : Set α} {m : α} [IsRightCancelAdd α] [IsLeftCancel
...
+/-- `IsMaximalSidonSet A N` means `A ⊆ {1, …, N}` is Sidon and cannot be extended within
+`{1, …, N}` while remaining Sidon. -/
+def IsMaximalSidonSetIn (A : Set ℕ) (N : ℕ) : Prop :=
+  A ⊆ Set.Icc 1 N ∧ IsSidon A ∧
+    ∀ ⦃x : ℕ⦄, x ∈ Set.Icc 1 N → x ∉ A → ¬ IsSidon (A ∪ {x})
+
+namespace IsMaximalSidonSet
+
+/-- If `A` is a maximal Sidon set in `{1, …, N}`, then `A ⊆ {1, …, N}`. -/
+theorem subset {A : Set ℕ} {N : ℕ} (hA : IsMaximalSidonSet A N) :
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Combinatorics/Basic.lean]: The build is failing because `IsMaximalSidonSet` does not exist, perhaps this should be `IsMaximalSidonSetIn`?

Comment (saurabhraghuvanshii) [reply FormalConjectures/ForMathlib/Combinatorics/Basic.lean]: I checked but faced same issue, I  think problem with lake

Comment (smmercuri) [reply FormalConjectures/ForMathlib/Combinatorics/Basic.lean]: I'm not sure what the problem with lake is, but the reason you are getting a build failure on GitHub CI (see error below) is because you are using `IsMaximalSidonSet` (which is undefined) on lines  105, 109, and 112. These should be changed to `IsMaximalSidonSetIn` (which is defined, line 98). 

```
error: ././././FormalConjectures/ForMathlib/Combinatorics/Basic.lean:105:41: unknown identifier 'IsMaximalSidonSet'
error: ././././FormalConjectures/ForMathlib/Combinatorics/Basic.lean:109:42: unknown identifier 'IsMaximalSidonSet'
error: ././././FormalConjectures/ForMathlib/Combinatorics/Basic.lean:112:42: unknown identifier 'IsMaximalSidonSet'
```

Comment (saurabhraghuvanshii) [reply FormalConjectures/ForMathlib/Combinatorics/Basic.lean]: I updated please run workflows

File: FormalConjectures/ErdosProblems/42.lean [hunk 25]
```diff
@@ -0,0 +1,88 @@
...
+
+/--
+**Erdős Problem 42**: Let M ≥ 1 and N be sufficiently large in terms of M. Is it true that for every
+maximal Sidon set `A ⊆ {1,…,N}` there is another Sidon set `B ⊆ {1,…,N}` of size M such that
+`(A - A) ∩ (B - B) = {0}`?
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42 : ∀ (M : ℕ), ∀ᶠ N in atTop, (∀ (A : Set ℕ) (_ : IsMaximalSidonSetIn A N),
+    ∃ᵉ (B : Set ℕ), B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
+    ((A - A) ∩ (B - B)) = {0}) ↔ answer(sorry) := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
theorem erdos_42 : (∀ (M : ℕ), ∀ᶠ N in atTop, ∀ (A : Set ℕ) (_ : IsMaximalSidonSetIn A N),
    ∃ᵉ (B : Set ℕ), B ⊆ Set.Icc 1 N ∧ IsSidon B ∧ B.ncard = M ∧
    ((A - A) ∩ (B - B)) = {0}) ↔ answer(sorry) := by
```
This has the parenthesis in the wrong place I believe.

**Comment by saurabhraghuvanshii** [comment]
thanks to all for reviewing my Pr. thanks

**Comment by Paul-Lez** [comment]
Oups seems merging main broke something - will fix tomorrow!

File: FormalConjectures/ErdosProblems/42.lean [hunk 26]
```diff
@@ -0,0 +1,88 @@
...
+/-!
+# Erdős Problem 42: Maximal Sidon Sets and Disjoint Difference Sets
+
+*Reference:* [erdosproblems.com/42](https://www.erdosproblems.com/42)
+
+This problem asks whether maximal Sidon sets can coexist with other Sidon sets that have
+disjoint difference sets (apart from 0).
+-/
+
+open Function Set
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/42.lean]: We need to `open Filter` if we're writing `atTop` in `erdos_42` (otherwise `Filter.atTop` should be written)
```suggestion
open Function Set Filter
```

File: FormalConjectures/ErdosProblems/42.lean [hunk 27]
```diff
@@ -0,0 +1,88 @@
...
+/--
+A variant asking for explicit bounds on how large N needs to be in terms of M.
+
+This version provides a constructive function f such that for all M ≥ 1 and N ≥ f(M),
+every maximal Sidon set A ⊆ {1,…,N} has another Sidon set B ⊆ {1,…,N} of size M with
+disjoint difference sets (apart from 0).
+-/
+@[category research open, AMS 5 11]
+theorem erdos_42.constructive : (∃ (f : ℕ → ℕ), ∀ (M N : ℕ) (_ : 1 ≤ M) (_ : f M ≤ N),
+    (A : Set ℕ) (_ : IsMaximalSidonSetIn A N), ∃ᵉ (B : Set ℕ),
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/42.lean]:
```suggestion
    ∀ (A : Set ℕ) (_ : IsMaximalSidonSetIn A N), ∃ᵉ (B : Set ℕ),
```

**Review by smmercuri — COMMENTED** [review]
These two suggestions should fix the new failures!

**Comment by saurabhraghuvanshii** [comment]
@smmercuri done

**Comment by saurabhraghuvanshii** [comment]
Finally , wowwwwwwwwwww
